US06403601B1
(a) 1,2-Dimethoxynaphthalene
To the solution of 1,2-dihydroxynaphthalene (5 g, 31.2 mmol) in DMF (140 mL) was added NaH (3.0 g, 75.0 mmol). After stirred at room temperature for 1 h, dimethylsulfate (7.09 mL, 75.0 mmol) was added. After stirring at room temperature for 22 h, water and Et2O was added, the organic layer was washed with brine, water, dried (MgSO4), filtered and concentrated. Column chromatography yielded the title compound as a colorless oil (3.83 g, 65%). 1H NMR (CDCl3) δ 8.12 (d, 1H), 7.79 (d, 1H), 7.59 (d, 1H), 7.47 (m, 1H), 7.35 (m, 1H), 7.29 (d, 1H), 3.99 (s, 3H), 3.99 (s, 3H).

reactant | 1,2-dihydroxynaphthalene | 31.2 mmol, 5 g | OC1=C(C=CC2=CC=CC=C12)O | C10H8O2
reactant | NaH | 75.0 mmol, 3.0 g | [H-].[Na+]
reactant | dimethylsulfate | 75.0 mmol, 7.09 mL | COS(=O)(=O)OC | C2H6O4S
reactant | water | O | H2O
reactant | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 1,2-Dimethoxynaphthalene | 3.83 g, 65% | COC1=C(C=CC2=CC=CC=C12)OC | C12H12O2
